US07645756B2
100 ml (0.11 mol) of a diethyl ether solution of 1 M 4-methoxyphenylmagnesium bromide was dropwise added to a tetrahydrofuran solution (200 ml) of 14.81 g (0.10 mol) of phthalic anhydride at −78° C., and stirred overnight at room temperature. Aqueous 1 N hydrochloric acid solution was added to the reaction liquid, extracted with chloroform, and the organic layer was washed with saturated saline water. This was dried with anhydrous sodium sulfate, then the reaction liquid was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=1/2) to obtain 25.63 g (yield: 100%) of 2-(4-methoxyphenyl)-benzoic acid as a yellow oily substance.

reactant | diethyl ether | 0.11 mol, 100 ml | C(C)OCC | C4H10O
reactant | 4-methoxyphenylmagnesium bromide | 1 M | COC1=CC=C(C=C1)[Mg]Br
reactant | phthalic anhydride | 0.10 mol, 14.81 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxyphenyl)-benzoic acid | 25.63 g, yield: 100% | COC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O3
